US04929741
A solution of 12 g (37 mmol) of 4-(1-ethoxyethoxy)-1-(2,3,4-trimethoxyphenyl)-2-butyn-1-ol in 50 ml of methylene chloride was added dropwise at 0° to a suspension of 95.3 g (1.1 mol) of manganese dioxide in 150 ml of methylene chloride. The reaction mixture was stirred at 0° for 15 minutes, filtered over magnesium sulphate and concentrated. Chromatography of the residue over 300 g of silica gel (elution agent ether/hexane 1:1) yielded 4-(1-ethoxyethoxy)-1-(2,3,4-trimethoxyphenyl)-2-butyn-1-one as a yellow oil.

reactant | 4-(1-ethoxyethoxy)-1-(2,3,4-trimethoxyphenyl)-2-butyn-1-ol | 37 mmol, 12 g | C(C)OC(C)OCC#CC(O)C1=C(C(=C(C=C1)OC)OC)OC | C17H24O6
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 1.1 mol, 95.3 g | [O-2].[O-2].[Mn+4]
product | 4-(1-ethoxyethoxy)-1-(2,3,4-trimethoxyphenyl)-2-butyn-1-one | C(C)OC(C)OCC#CC(=O)C1=C(C(=C(C=C1)OC)OC)OC | C17H22O6
